US06124331
A solution of a tert-butyl N-[4-(isopropylamino)-cyclohexyl]methylcarbamate (7.89 mmol, 1 equivalent) in THF (5 ml) was added dropwise to a solution of 1H-benzotriazole-1-carboxaldehyde (8.68 mmol, 1.2 equivalent) in THF (10 ml) at room temperature, stirred overnight and heated at reflux temperature for two hours. 1H-Benzotriazole-1-carboxaldehyde (1 equivalent) was added and stirred overnight. The solvent was removed and dichloromethane was added to the residue. The organic extract was washed with 2N NaOH solution, washed with saturated NaCl solution, and dried over Na2SO4. The solvent was then removed and the product chromatographed to give tert-butyl N-[4-(isopropylformylamino)cyclohexyl]methylcarbamate: 100% yield, 299 (ESMS, MH+); 1H NMR (CD3OD) δ 8.22 & 8.18 (two s, 1H), 4.63 (broad, 1H), 4.30 & 3.60 (two m, 1H), 3.76 (m, 1H), 2.99 (m, 2H), 1.44 (s, 9H), 1.27 (d, 3H, J=6.5 Hz), 1.21 (d, 3H, J=6.5 Hz), 1.91-0.82 (m, 9H).

reactant | tert-butyl N-[4-(isopropylamino)-cyclohexyl]methylcarbamate | 7.89 mmol, 1 equivalent | C(C)(C)NC1CCC(CC1)CNC(OC(C)(C)C)=O | C15H30N2O2
reactant | 1H-benzotriazole-1-carboxaldehyde | 8.68 mmol, 1.2 equivalent | N1(N=NC2=C1C=CC=C2)C=O | C7H5N3O
reactant | 1H-Benzotriazole-1-carboxaldehyde | 1 equivalent | N1(N=NC2=C1C=CC=C2)C=O | C7H5N3O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl N-[4-(isopropylformylamino)cyclohexyl]methylcarbamate | 100% yield | C(C)(C)C(=O)NC1CCC(CC1)CNC(OC(C)(C)C)=O | C16H30N2O3
